US07547703B2
1-Acetyl-3-[1-chloro-1-(4-cyanophenyl)methylene]-6-chloro-2-indolinone
A suspension of 7.0 g of 1-acetyl-3-[1-hydroxy-1-(4-cyanophenyl)methylene]-6-chloro-2-indolinone (starting material VI.18) and 6.39 g of phosphorus pentachloride in 150 ml of dioxane is stirred at 100° C. for 6 hours. After addition of a further 1.0 g of phosphorus pentachloride, the mixture is stirred at 110° C. for another 4 hours. The solvent is then distilled off and the residue is washed with ethyl acetate.

reactant | 1-acetyl-3-[1-hydroxy-1-(4-cyanophenyl)methylene]-6-chloro-2-indolinone | 7.0 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC=C(C=C1)C#N)O)=O | C18H11ClN2O3
reactant | phosphorus pentachloride | 6.39 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus pentachloride | 1.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 1-Acetyl-3-[1-chloro-1-(4-cyanophenyl)methylene]-6-chloro-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC=C(C=C1)C#N)Cl)=O | C18H10Cl2N2O2
